2134-04-03 08:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - c diff positive, added PO vanc
   - BP range 100-110 with fluids, much improved with 1L NS bolus
   - O2 Sat stable @ 3L
   - could not obtain ABG
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-4-3**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.3
C (95.6
   HR: 86 (75 - 86) bpm
   BP: 130/46(65) {100/40(56) - 133/63(75)} mmHg
   RR: 27 (20 - 29) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
                  Total In:
                                                                     30 mL
                                                                    120 mL
   PO:
                                                                     30 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    190 mL
                                                                    135 mL
   Urine:
                                                                     40 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -160 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   219 K/uL
   8.6 g/dL
   110 mg/dL
   2.2 mg/dL
   28 mEq/L
   4.1 mEq/L
   88 mg/dL
   99 mEq/L
   139 mEq/L
   28.6 %
   14.4 K/uL
        [image002.jpg]
                             [**2134-4-3**]  03:45 AM
   WBC
   14.4
   Hct
   28.6
   Plt
   219
   Cr
   2.2
   TropT
   0.08
   Glucose
   110
   Other labs: PT / PTT / INR:38.9/48.6/4.1, CK / CKMB /
   Troponin-T:54//0.08, Lactic Acid:1.7 mmol/L, Ca++:8.4 mg/dL, Mg++:2.4
   mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: VBG: pH 7.42 pCO2 48 pO2 29 HCO3 32 BaseXS
   4
   Lactate:1.7
   Imaging: CXR:
   Microbiology: C. Diff (+)
   BCx pending
   Assessment and Plan
   Assessment and Plan:
   87 yo f with hx of dCHF, AVR, MRV, DMII, recent bacteremia, admitted
   [**3-29**] with worsening dyspnea and concern for acute on chronic dHF; who
   then developed
   # Fever / Leukocytosis: Normotensive but with low uop and new
   arrythmias concerning for sepsis.  Differential in this patient include
   many infectious causes including recurrent Salmonella infection
   (completed ceftriaxon [**3-22**]), new bacteremia secondary to recent PICC,
   C.diff given repeated hospitalizations and abx, new PNA given increased
   dyspnea.  Also with increasing adenexal mass (abscess?  bowel fistula?)
   on CT [**2134-3-10**] with both ascites and plueural effusions, any of which
   could [**Hospital1 **] an underlying infection.
    - start vancomycin and cefepime, appreciate ID recommendations
    - continue empiric treatment of c diff with PO flagyl
    - RUQ pelvic ultrasound to evaluate pelvic mass ? mycotic aneurysm
    - CXR to evaluate for new PNA
    - u/s of abdomen
    - discuss with family diagnostic paracentesis (refused last admission)
    - consider thoracentesis if effusion persists on CXR
    - TTE vs TEE to evaluate for new vegetation, given artificial valves
   and recent PICC
    - Follow-up blood cultures, urine, stool cultures
    - Culture if febrile
    - Repeat C.diff x 3; empiric metronidazole for now
    - Hold Lasix / Metolazone for now while bP borderline; small NS
   boluses PRN to maintain MAP >60
   # Altered Mental Status: Noted in the day prior to transfer to the
   ICU.  Very likely related to new infectious process as above.  Could
   also consider worsening heart failure with dyspnea and hypoxemia or
   toxic-metabolic encephalopathy. Exam currently nonfocal.
    - Infectious work-up as above
    - Avoid sedating medication
   # Metabolic Acidosis: mixed
   - ABG with lactate
   .
   # Wide Complex Tachycardia: Day of MICU transfer, patient reportedly
   had HR to 200, then became briefly cyanotic, unresponsive and
   ?pulseless.  Review of telemetry reveals Torsades de [**Last Name (un) 11738**]. EKG after
   event without evidence of ischemia. Baseline EKG with long QT.  No
   obvious QT-prolonging medications currently, although she did recently
   complete a course of fluconazole on [**3-28**].  EP increased HR today to
   decrease QT
    - Cycle CE (first set negative)
    - repeat EKG in AM
    - ICU cardiac monitoring
    - continue Amiodarone 200 mg daily
    - hold metoprolol given long QT
    - f/u EP recs
    - Mg > 2, K > 4
   # Hypoxia: O2 requirement is 2L, unchanged from recent requirement on
   floor. Likely [**3-9**] acute on chronic diastolic heart failure with
   possibility of infectious process.  Exam difficult to assess volume
   with JVP given TR & not taking good inspiration.  LE with edema.  +
   Pleural effusion and ascites on recent imaging. Now with decreased
   urine output, ? new sepsis vs poor forward flow [**3-9**] worsened heart
   failure and volume overload.
    - Control hypertension
    - Monitor urine output
    - Urine lytes
    - Ideally would make negative but carefully in the setting of ? sepsis
    - daily weights
    - strict I/Os
   # Acute on Chronic renal failure: Baseline Cr 2 - 2.3, currently 2.4,
   above baseline. [**Month (only) 8**] be elevated due to poor forward flow vs new septic
   process. UA without e/o infection.  Per daughter, it improved with
   diuretics at rehab.
    - monitor closely
    - will renally dose meds
    - urine lytes
    - Calcium Acetate 667mg x 2 TID - hold while NPO
   # Elevated Troponin: Baseline near 0.05, now 0.08 s/p episode of
   pulseless VT vs Torsade de [**Last Name (un) 11738**].
    - Trend, check Q8
   # CAD s/p 1v CABG: Reportedly with intermittent angina per prior
   admission notes
    - Continue Statin, Isosorbide dinitrate while concern for pressure
   instability
    - ASA
    - SL NTG PRN
   # Elevated LFTs: Alk phos elevated, and AST, GGT. Pt has RUQ pain on
   exam. Recent concern for biliary process. However bili is normal, so
   unlikely obstruction
    - Mild elevation on admission, resolving, may be [**3-9**] volume overload
   # Anemia: Chronic.  Recent baseline 25, currently > 28.
    - Trend, prior evaluation [**12/2133**] consistent with iron deficiency
   anemia, no colonoscopy in OMR
    - Polysaccaride Iron Complex 150 Qday  (hold while AMS)
   # DMII: stable.  On Lantus 30U as outpatient.
    - ISS
   # History of Afib: AV paced at 60. Initially continued on home
   Amiodarone & Metoprolol.
    - Amiodarone & Metoprolol, continue as able given concern for low
   blood pressure
   - continue anticoagulation
   # Hx of AVR and MVR: INR was subtherputic on admission, goal likely 2.5
   - 3.5 due to mechanical valve.  Therapeutic today.
    - Continue Coumadin daily at current dose.
   # Hypothyroid: Stable per admission records.
    - continue Levothryroxine 37.5mcg qday  (18.75 IV if not tolerate po)
   # GERD: On both H2 / PPI as outpatient.  Unclear level of control.
    - Continue Omeprazole for now
   # Insomnia: Hold Trazodone PRN given AMS.
   # FEN: No IVF, replete electrolytes, NPO for AMS (will advance to Renal
   / DM diet as able)
   # Prophylaxis:
   - DVT ppx with Coumadin
   - Bowel regimen PRN
   .
   # Access: PIV
   .
   # Code: DNR/DNI (per daughter HCP [**2134-4-2**]; prefer all else be done)
   .
   # Communication: Patient
   .
   # Emergency Contact: daughter- [**Name (NI) 7617**] [**Telephone/Fax (1) 11739**]
   .
   # Disposition: ICU pending further improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-4-2**] 11:00 PM
   22 Gauge - [**2134-4-2**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2134-04-03 11:31:00 Physician Attending Progress Note
Chief Complaint: sepsis, torsades
   I saw and examined the patient, and was physically present with Dr.
   [**Last Name (STitle) 6197**] for key portions of the services provided.
   HPI:
   87F with complex cardiac history, recent admission for salmonella
   bacteremia, readmitted with HFpEF exacerbation, txr to icu overnight
   after hypotension and code blue with torsades:
   24 Hour Events:
   -stable overnight
   -started on po vanco for confirmed cdiff
   -chest pain this am
   History obtained from Patient, Family / [**Hospital 216**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2134-4-3**] 08:57 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2134-4-3**] 10:30 AM
   Other medications:
   cef, vanco, amio, ca, colace, senna, imdur, spironolactone, omeprazole,
   simva, insulin, benzonatate, asa, flagyl po, epo TIW
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: Chest pain, Palpitations
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Signs or concerns for abuse : No
   Pain: [**4-8**] Mild
   Flowsheet Data as of  [**2134-4-3**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 80 (75 - 87) bpm
   BP: 115/49(65) {100/40(56) - 133/63(75)} mmHg
   RR: 27 (20 - 32) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
             Total In:
                                                                     30 mL
                                                                    240 mL
   PO:
                                                                     30 mL
                                                                    180 mL
   TF:
   IVF:
   60 mL
   Blood products:
   Total out:
                                                                    190 mL
                                                                    270 mL
   Urine:
                                                                     40 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -160 mL
                                                                    -30 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, No(t) NG tube, No(t)
   OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   219 K/uL
   110 mg/dL
   2.2 mg/dL
   28 mEq/L
   4.1 mEq/L
   88 mg/dL
   99 mEq/L
   139 mEq/L
   28.6 %
   14.4 K/uL
        [image002.jpg]
                             [**2134-4-3**]  03:45 AM
   WBC
   14.4
   Hct
   28.6
   Plt
   219
   Cr
   2.2
   TropT
   0.08
   Glucose
   110
   Other labs: PT / PTT / INR:38.9/48.6/4.1, CK / CKMB /
   Troponin-T:54//0.08, Lactic Acid:1.7 mmol/L, Ca++:8.4 mg/dL, Mg++:2.4
   mg/dL, PO4:3.7 mg/dL
   Imaging: cxr:
   Microbiology: cdiff positive
   ECG: qtc = 471
   Assessment and Plan
   87F with complex cardiac history, recent admission for salmonella
   bacteremia, readmitted with HFPEF exacerbation, txr to icu overnight
   after hypotension and code blue with torsades. C.diff returned
   positive. This am main complaint is chest pain.
   Sepsis / c.diff: improved lactate reassuring
   -cont broad abx but favor stopping non-c.diff abx that could exacerbate
   -awaiting id recs
   -awaiting abd u/s
   Chest Pain: not clear if cardiac, ongoing issue prior to this
   hospitalization
   -trial of subling nitro
   -cycle cardiac enzymes
   -normal perfusion in [**2131**]
   Torsades
 appreciate EP recs
   -follow tele
   -lyte repletions
   -stop amio
   HFpEF: severe
   -will need diuresis when bp more stable
   Mech valves:
   -coumadin
   -tte/tee if bacteremic
   ICU Care
   Nutrition: start po
s when more awake
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2134-4-2**] 11:00 PM
   22 Gauge - [**2134-4-2**] 11:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill

2134-04-04 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2134-4-3**] 10:05 AM
 BLOOD CULTURED - At [**2134-4-3**] 06:53 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2134-4-3**] 03:54 PM
   Metronidazole - [**2134-4-3**] 04:00 PM
   Vancomycin - [**2134-4-4**] 04:17 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2134-4-4**] 05:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-4-4**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.8
C (96.5
   HR: 84 (76 - 84) bpm
   BP: 110/41(58) {90/40(52) - 134/89(96)} mmHg
   RR: 15 (15 - 32) insp/min
   SpO2: 94%
   Heart rhythm: AV Paced
             Total In:
                                                                    993 mL
                                                                    279 mL
   PO:
                                                                    650 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    343 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                    640 mL
                                                                    150 mL
   Urine:
                                                                    640 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    353 mL
                                                                    129 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   204 K/uL
   7.6 g/dL
   142 mg/dL
   2.1 mg/dL
   28 mEq/L
   3.9 mEq/L
   88 mg/dL
   101 mEq/L
   137 mEq/L
   24.1 %
   12.4 K/uL
        [image002.jpg]
                             [**2134-4-3**]  03:45 AM
                             [**2134-4-3**]  11:39 AM
                             [**2134-4-3**]  06:39 PM
                             [**2134-4-4**]  03:11 AM
   WBC
   14.4
   12.4
   Hct
   28.6
   24.1
   Plt
   219
   204
   Cr
   2.2
   2.1
   TropT
   0.08
   0.09
   0.09
   0.07
   Glucose
   110
   142
   Other labs: PT / PTT / INR:48.1/59.4/5.2, CK / CKMB /
   Troponin-T:35//0.07, Lactic Acid:1.7 mmol/L, Ca++:7.9 mg/dL, Mg++:2.5
   mg/dL, PO4:3.8 mg/dL
   Imaging: Ab U/S: 1. simple cholelithiasis without acut cholecystitis.
   2. dilated hepatic veins.
   3. ascites.
   Microbiology: Urine: Enterococcus Sp (10^4-10^5)
   Assessment and Plan
 CHEST PAIN
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Assessment and Plan:
   87 yo f with hx of dCHF, AVR, MRV, DMII, recent bacteremia, admitted
   [**3-29**] with worsening dyspnea and concern for acute on chronic dHF; who
   then developed
   # Fever / Leukocytosis: Normotensive but with low uop and new
   arrythmias concerning for sepsis.  Differential in this patient include
   many infectious causes including recurrent Salmonella infection
   (completed ceftriaxon [**3-22**]), new bacteremia secondary to recent PICC,
   C.diff given repeated hospitalizations and abx, new PNA given increased
   dyspnea.  Also with increasing adenexal mass (abscess?  bowel fistula?)
   on CT [**2134-3-10**] with both ascites and plueural effusions, any of which
   could [**Hospital1 **] an underlying infection.
    - start vancomycin and cefepime, appreciate ID recommendations
    - continue empiric treatment of c diff with PO flagyl
    - RUQ pelvic ultrasound to evaluate pelvic mass ? mycotic aneurysm
    - CXR to evaluate for new PNA
    - u/s of abdomen
    - discuss with family diagnostic paracentesis (refused last admission)
    - consider thoracentesis if effusion persists on CXR
    - TTE vs TEE to evaluate for new vegetation, given artificial valves
   and recent PICC
    - Follow-up blood cultures, urine, stool cultures
    - Culture if febrile
    - Repeat C.diff x 3; empiric metronidazole for now
    - Hold Lasix / Metolazone for now while bP borderline; small NS
   boluses PRN to maintain MAP >60
   # Altered Mental Status: Noted in the day prior to transfer to the
   ICU.  Very likely related to new infectious process as above.  Could
   also consider worsening heart failure with dyspnea and hypoxemia or
   toxic-metabolic encephalopathy. Exam currently nonfocal.
    - Infectious work-up as above
    - Avoid sedating medication
   # Metabolic Acidosis: mixed
   - ABG with lactate
   .
   # Wide Complex Tachycardia: Day of MICU transfer, patient reportedly
   had HR to 200, then became briefly cyanotic, unresponsive and
   ?pulseless.  Review of telemetry reveals Torsades de [**Last Name (un) 11738**]. EKG after
   event without evidence of ischemia. Baseline EKG with long QT.  No
   obvious QT-prolonging medications currently, although she did recently
   complete a course of fluconazole on [**3-28**].  EP increased HR today to
   decrease QT
    - Cycle CE (first set negative)
    - repeat EKG in AM
    - ICU cardiac monitoring
    - continue Amiodarone 200 mg daily
    - hold metoprolol given long QT
    - f/u EP recs
    - Mg > 2, K > 4
   # Hypoxia: O2 requirement is 2L, unchanged from recent requirement on
   floor. Likely [**3-9**] acute on chronic diastolic heart failure with
   possibility of infectious process.  Exam difficult to assess volume
   with JVP given TR & not taking good inspiration.  LE with edema.  +
   Pleural effusion and ascites on recent imaging. Now with decreased
   urine output, ? new sepsis vs poor forward flow [**3-9**] worsened heart
   failure and volume overload.
    - Control hypertension
    - Monitor urine output
    - Urine lytes
    - Ideally would make negative but carefully in the setting of ? sepsis
    - daily weights
    - strict I/Os
   # Acute on Chronic renal failure: Baseline Cr 2 - 2.3, currently 2.4,
   above baseline. [**Month (only) 8**] be elevated due to poor forward flow vs new septic
   process. UA without e/o infection.  Per daughter, it improved with
   diuretics at rehab.
    - monitor closely
    - will renally dose meds
    - urine lytes
    - Calcium Acetate 667mg x 2 TID - hold while NPO
   # Elevated Troponin: Baseline near 0.05, now 0.08 s/p episode of
   pulseless VT vs Torsade de [**Last Name (un) 11738**].
    - Trend, check Q8
   # CAD s/p 1v CABG: Reportedly with intermittent angina per prior
   admission notes
    - Continue Statin, Isosorbide dinitrate while concern for pressure
   instability
    - ASA
    - SL NTG PRN
   # Elevated LFTs: Alk phos elevated, and AST, GGT. Pt has RUQ pain on
   exam. Recent concern for biliary process. However bili is normal, so
   unlikely obstruction
    - Mild elevation on admission, resolving, may be [**3-9**] volume overload
   # Anemia: Chronic.  Recent baseline 25, currently > 28.
    - Trend, prior evaluation [**12/2133**] consistent with iron deficiency
   anemia, no colonoscopy in OMR
    - Polysaccaride Iron Complex 150 Qday  (hold while AMS)
   # DMII: stable.  On Lantus 30U as outpatient.
    - ISS
   # History of Afib: AV paced at 60. Initially continued on home
   Amiodarone & Metoprolol.
    - Amiodarone & Metoprolol, continue as able given concern for low
   blood pressure
   - continue anticoagulation
   # Hx of AVR and MVR: INR was subtherputic on admission, goal likely 2.5
   - 3.5 due to mechanical valve.  Therapeutic today.
    - Continue Coumadin daily at current dose.
   # Hypothyroid: Stable per admission records.
    - continue Levothryroxine 37.5mcg qday  (18.75 IV if not tolerate po)
   # GERD: On both H2 / PPI as outpatient.  Unclear level of control.
    - Continue Omeprazole for now
   # Insomnia: Hold Trazodone PRN given AMS.
   # FEN: No IVF, replete electrolytes, NPO for AMS (will advance to Renal
   / DM diet as able)
   # Prophylaxis:
   - DVT ppx with Coumadin
   - Bowel regimen PRN
   .
   # Access: PIV
   .
   # Code: DNR/DNI (per daughter HCP [**2134-4-2**]; prefer all else be done)
   .
   # Communication: Patient
   .
   # Emergency Contact: daughter- [**Name (NI) 7617**] [**Telephone/Fax (1) 11739**]
   .
   # Disposition: ICU pending further improvement
   ------ Protected Section ------
   Addendum after AM Rounds:
   Substernal chest pressure during rounds, nitro/morphine given, no
   ischemic changes.
   C. Diff Sepsis: C. diff positive
   - Surveillance cultures daily
   - PO Vanc/ IV Flagyl for C. Diff
   - Vanc/Cefepime for broad coverage for Sepsis, ID consult
   - Abdominal U/S given CT findings from [**3-10**]
   - TTE if BCx positive
   CAD/Torsades: paced
   - Nitro, Morphine prn
   - Hold metoprolol, hold Amio
   - EP Recs
   - Enzymes today
   Afib:
   Hold coumadin as INR 4.1
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-4-2**] 11:00 PM
   22 Gauge - [**2134-4-2**] 11:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2134-04-05 07:14:00 Physician Resident Progress Note
Chief Complaint: intermittently complained of diffuse body aches
   24 Hour Events:
   - stable, called out
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2134-4-3**] 03:54 PM
   Metronidazole - [**2134-4-4**] 08:18 AM
   Vancomycin - [**2134-4-4**] 04:51 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2134-4-4**] 10:20 AM
   Morphine Sulfate - [**2134-4-4**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-4-5**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 76 (75 - 85) bpm
   BP: 117/42(60) {98/42(60) - 130/74(80)} mmHg
   RR: 20 (17 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
             Total In:
                                                                    980 mL
                                                                    140 mL
   PO:
                                                                    640 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    340 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                    540 mL
                                                                    185 mL
   Urine:
                                                                    540 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    440 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General: Sleeping, arousable, looking uncomfortable, but no acute
   distress
   HEENT: Sclera anicteric, MMM
   Neck: supple, JVP elevated to above jawline and notable pulsatile, no
   LAD
   Lungs: Poor air movement without clear rales or ronchi, no wheezing
   CV: Regular rate and rhythm, click of heart valve, systolic murmur
   throughout chest, [**4-10**]
   Abdomen: soft, active bowel sounds and mildly distended, nontender
   Ext: Warm, well perfused, trace bilateral pitting edema
   Labs / Radiology
   203 K/uL
   7.9 g/dL
   109 mg/dL
   2.2 mg/dL
   24 mEq/L
   3.9 mEq/L
   87 mg/dL
   98 mEq/L
   133 mEq/L
   25.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2134-4-3**]  03:45 AM
                             [**2134-4-3**]  11:39 AM
                             [**2134-4-3**]  06:39 PM
                             [**2134-4-4**]  03:11 AM
                             [**2134-4-5**]  05:24 AM
   WBC
   14.4
   12.4
   9.3
   Hct
   28.6
   24.1
   25.4
   Plt
   [**Telephone/Fax (3) 11765**]
   Cr
   2.2
   2.1
   2.2
   TropT
   0.08
   0.09
   0.09
   0.07
   0.06
   Glucose
   110
   142
   109
   Other labs: PT / PTT / INR:20.7/36.2/1.9, CK / CKMB /
   Troponin-T:32//0.06, Lactic Acid:1.7 mmol/L, Ca++:8.0 mg/dL, Mg++:2.6
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 CHEST PAIN
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   87-year-old woman with dCHF, AVR, MVR, DMII, recent bacteremia,
   admitted [**3-29**] with worsening dyspnea and concern for acute on chronic
   dCHF, then  developed torsades requiring MICU stay. Also with ongoing
   C. diff colitis.
   # C. diff: Defervesced, and leukocytosis resolved. Was initially on
   both PO vanco and IV metronidazole, but the latter was discontinued due
   to concern for QT prolongation. No evidence of shock.
   - continue PO vanc x total of 2 weeks
   # S/p torsades: spontaneously resolved after half a minute on the
   floor. No subsequent episodes. CE downtrending.
   - continue to hold amioradone per cards
   - maintain K > 4, Mg > 2
   - continue telemetry
   #. CHF: Moderately fluid overloaded on admission with tachypnea.
   Respiratory status now much better after diuresis.
   - furosemide prn
   - monitor I/O, daily weights
   # Chronic kidney disease: Cr at baseline of 2 - 2.3
    - monitor closely
    - renally dose meds
   # History of Afib: AV paced at 75. Initially continued on home
   amiodarone & metoprolol. INR 5 on admission, warfarin held. INR now
   down to 1.9
   - continue to hold amiodarone & metoprolol given recent hypotension
   - restart warfarin today
   # Recent Salmonella bacteremia:
   - pelvic U/S after call out to r/o pelvic source of Salmonella
   - f/u ID recs
   # DMII: stable.  On Lantus 30U as outpatient.
    - ISS
   # Hx of AVR and MVR: INR was subtherapeutic on admission, then
   supratherapeutic. Now INR 1.9.
    - restart warfarin
   # Hypothyroidism: Stable per admission records.
    - continue levothryroxine 37.5mcg qday
   # GERD: On both H2 / PPI as outpatient.  Unclear level of control.
    - Continue omeprazole for now
   # FEN: No IVF, replete electrolytes, cardiac/diabetic diet
   # Prophylaxis:
   - DVT ppx with warfarin
   - Bowel regimen PRN
   # Access: PIV
   # Code: DNR/DNI (per daughter HCP [**2134-4-2**]; prefer all else be done)
   # Communication: Patient
   # Emergency Contact: daughter- [**Name (NI) 7617**] [**Telephone/Fax (1) 11739**]
   # Disposition: awaiting floor bed
   ICU Care
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-4-2**] 11:00 PM
   22 Gauge - [**2134-4-2**] 11:00 PM